US07495007B2
Triethyl 2-fluoro-2-phosphonoacetate (20 g, 82.6 mmol) (Aldrich) was added dropwise to a stirred solution of sodium hydride (3.6 g, 90.8 mmol) in dimethoxyethane (100 mL) at 0° C. After stirring at room temperature for 20 min, acetone (4.78 g, 82.6 mmol) was added and the reaction mixture was refluxed for overnight. The two phase mixture was cooled, diluted with water and extracted with ether. The combined organic layers were dried over MgSO4, filtered and concentrated. The residue was purified with chromatography (Hexanes) to give 2-fluoro-3-methyl-but-2-enoic acid ethyl ester as colorless oil (Yield: 9.0 g, 61.6%).

reactant | Triethyl 2-fluoro-2-phosphonoacetate | 82.6 mmol, 20 g | CCOC(=O)C(F)P(=O)(OCC)OCC | C8H16FO5P
reactant | sodium hydride | 90.8 mmol, 3.6 g | [H-].[Na+]
reactant | acetone | 82.6 mmol, 4.78 g | CC(=O)C | C3H6O
solvent | dimethoxyethane | 100 mL | C(OC)COC | C4H10O2
solvent | water | O | H2O
product | 2-fluoro-3-methyl-but-2-enoic acid ethyl ester | Yield: 9.0 g, 61.6% | C(C)OC(C(=C(C)C)F)=O | C7H11FO2
